US04803218
To a solution of 21.3 g (0.124 mole) of 5-aminoindole-3-acetonitrile in 400 ml of 25% aq HOAc cooled to 0° was added 10.5 g (0.13 mole) of KOCN in 30 ml of H2O. The reaction mixture was stored at 0° for 14 hours after which a beige solid was filtered and recrystallized from methanol to give 14.0 g (53% yield) of N-(3-cyanomethyl-1H-indol-5-yl)urea. Further recrystallization affords an analytical sample: m.p. 219°-220°; i.r. (Nujol) 3455, 3300, 2250 and 1650 cm-1 ; nmr (d6 -DMSO) δ(TMS) 11.06 (1,S,indole NH ), 8.46 (1,S, --NHCO--), 7.70 (1,d,Jmeta =2 Hz), 7.37 (1,d,Jortho =9 Hz), 7.30 (1,S,indole C2H), 7.18 (1,d of d,Jortho =9 Hz, Jmeta =2 Hz), 5.73 (2,S,--CONH2) and 4.00 ppm (2,S,--CH2CN).

reactant | 5-aminoindole-3-acetonitrile | 0.124 mole, 21.3 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
reactant | KOCN | 0.13 mole, 10.5 g | O([K])C#N
solvent | HOAc | 400 ml | CC(=O)O | C2H4O2
solvent | H2O | 30 ml | O | H2O
product | N-(3-cyanomethyl-1H-indol-5-yl)urea | 14.0 g, 53% yield | C(#N)CC1=CNC2=CC=C(C=C12)NC(=O)N | C11H10N4O
